US07129235B2
N-(4-tert-butylphenyl)-3-(3-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxamide
3-(3-Chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane (129 mg, 577 μmol) in dry dichloromethane (5 mL) was treated with 1-tert-butyl4-isocyanatobenzene (101 mg, 577 μmol) and allowed to stir overnight at room temperature. The mixture was concentrated under reduced pressure and the residue was purified by chromatography on silica gel (3:1, hexanes:ethyl acetate) to provide the title compound. MS (DCI/NH3) m/z: 399 (M+H)+; 1H NMR (CDCl3) δ 1.30 (s, 9H), 2.01 (m, 2H), 2.17 (m, 2H), 3.25 (d, 2H), 3.64 (dd, 2H), 4.38 (dd, 2H), 6.32 (s, 1H), 6.86 (dd, 1H), 7.32 (s, 4H), 7.59 (dd, 1H), 8.17 (dd, 1H).

reactant | 3-(3-Chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane | 577 μmol, 129 mg | ClC=1C(=NC=CC1)N1CC2CCC(C1)N2 | C11H14ClN3
reactant | 1-tert-butyl4-isocyanatobenzene | 577 μmol, 101 mg | C(C)(C)(C)C1=CC=C(C=C1)N=C=O | C11H13NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(4-tert-butylphenyl)-3-(3-chloro-2-pyridinyl)-3,8-diazabicyclo[3.2.1]octane-8-carboxamide | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)N1C2CN(CC1CC2)C2=NC=CC=C2Cl | C22H27ClN4O
